US04888138
To the crude 1-chloro-3-decyloxy-2-propanol prepared as described above and cooled to 40° C. was added NaOH (50% aqueous, 76 g, 2.2 mole) and water (44 g). The temperature rose to 50° C., then the mixture was heated to 85°-90° C. for three hours. Analysis by GC showed the crude product contained 11% unreacted alcohol and 75% of the expected epoxide. Water (200 ml) was added to dissolve precipitated salt. The aqueous phase was separated (pH 4) and the organic phase washed with 5% NaCl solution to pH 7-8 (2×400 ml). The crude product (435 g, 102%) was fractionally distilled at 12 mmHg to yield 286 g of (decyloxy)methyloxirane (67% overall based on epichlorohydrin). GC showed the product was 97% pure.

reactant | 1-chloro-3-decyloxy-2-propanol | ClCC(COCCCCCCCCCC)O | C13H27ClO2
reactant | NaOH | 2.2 mole, 76 g | [OH-].[Na+]
solvent | Water | 200 ml | O | H2O
solvent | water | 44 g | O | H2O
product | (decyloxy)methyloxirane | 286 g, 67% | C(CCCCCCCCC)OCC1OC1 | C13H26O2
